US08871756B2
4,5-Dihydro-1,4-benzoxazepin-3(2H)-one
The methanol solution of methyl (2-cyanophenoxy)acetate (40 g, 0.209 mol) was added to the mixture of Raney Ni (80 g) in 500 mL of methanol. The reaction mixture was stirred at room temperature overnight under hydrogen atmosphere. Raney Ni was removed by filtration, and the filtrated was concentrated under reduced pressure to give a residue which was purified by column chromatography on silica gel (methanol/dichloromethane, 1:50) to give 23 g of product. MS obsd. (ESI+) [(M+H)+] 164.

reactant | methyl (2-cyanophenoxy)acetate | 0.209 mol, 40 g | C(#N)C1=C(OCC(=O)OC)C=CC=C1 | C10H9NO3
solvent | methanol | 500 mL | CO | CH4O
catalyst | Ni | 80 g | [Ni] | Ni
product | 4,5-Dihydro-1,4-benzoxazepin-3(2H)-one | 23 g | O1CC(NCC2=C1C=CC=C2)=O | C9H9NO2
